US06239151B1
A mixure of 3.46 g of (E)-2(R)-[1(S)-(tert.-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvaleric acid, 4.0 g of N-methyl morpholine, 2.95 g of benzylhydrazine dihydrochloride and 1.7 g of 1-hydroxybenzotriazole hydrate in 25 ml of dimethylformamide was cooled to 0° C. while stirring under nitrogen and 2.4 g of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide were added. The mixture was gradually allowed to come to room temperature and was then stirred overnight. The dimethylformamide was evaporated and the residue was partitioned between ethyl acetate and saturated sodium hydrogen carbonate solution. The ethyl acetate phase was washed in sequence with water, 5% citric acid solution, water and saturated sodium chloride solution. After drying over anhydrous magnesium sulphate the ethyl acetate was evaporated to give a yellow gum. Crystallization from hexane gave 1.87 g of (E)-2′-benzyl-2(R)-[1(S)-(tert.-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvalerohydrazide as a white solid.

reactant | (E)-2(R)-[1(S)-(tert.-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvaleric acid | 3.46 g | C(C)(C)(C)OC(=O)[C@@H](C\C=C\C1=CC=CC=C1)[C@H](C(=O)O)CC(C)C | C21H30O4
reactant | N-methyl morpholine | 4.0 g | CN1CCOCC1 | C5H11NO
reactant | benzylhydrazine dihydrochloride | 2.95 g | Cl.Cl.C(C1=CC=CC=C1)NN
reactant | 1-hydroxybenzotriazole hydrate | 1.7 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 2.4 g | C(C)N=C=NCCCN(C)C | C8H17N3
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | (E)-2′-benzyl-2(R)-[1(S)-(tert.-butoxycarbonyl)-4-phenyl-3-butenyl]-4-methylvalerohydrazide | 1.87 g | C(C1=CC=CC=C1)NNC([C@H](CC(C)C)[C@H](C\C=C\C1=CC=CC=C1)C(=O)OC(C)(C)C)=O | C28H38N2O3
